US08748613B2
(R)-quinuclidin-3-yl 2-phenyl-2-thiomorpholinoacetate (68 mg, 0.20 mmol) was dissolved in ethyl acetate (2 ml) and 2-chloro-1-phenylethanone (33.4 mg, 0.22 mmol) was added. The solution was stirred at room temperature for two days. The solvent was evaporated and the residue was triturated with Et2O. The suspension was filtered on a buckner funnel to obtain (3R)-1-(2-oxo-2-phenylethyl)-3-(2-phenyl-2-thiomorpholinoacetoxy)-1-azoniabicyclo[2.2.2]octane chloride (89 mg, 0.178 mmol, 91% yield) as an off-white solid.

reactant | (R)-quinuclidin-3-yl 2-phenyl-2-thiomorpholinoacetate | 0.20 mmol, 68 mg | C1(=CC=CC=C1)C(C(=O)O[C@H]1CN2CCC1CC2)N2CCSCC2 | C19H26N2O2S
reactant | 2-chloro-1-phenylethanone | 0.22 mmol, 33.4 mg | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | (3R)-1-(2-oxo-2-phenylethyl)-3-(2-phenyl-2-thiomorpholinoacetoxy)-1-azoniabicyclo[2.2.2]octane chloride | 0.178 mmol, 89 mg, 91% yield | [Cl-].O=C(C[N+]12C[C@@H](C(CC1)CC2)OC(C(N2CCSCC2)C2=CC=CC=C2)=O)C2=CC=CC=C2 | InChI=1S/C27H33N2O3S.ClH/c30-24(21-7-3-1-4-8-21)19-29-15-11-22(12-16-29)25(20-29)32-27(31)26(23-9-5-2-6-10-23)28-13-17-33-18-14-28;/h1-10,22,25-26H,11-20H2;1H/q+1;/p-1/t22?,25-,26?,29?;/m0./s1
